US05164512
To 8.3 g of anhydrous aluminum chloride, 30 ml of carbon disulfide was added, followed by dropwise addition of 16.3 g of N,N-diethyl-m-toluidine under ice-cooling. Then, 5 g of oxalyl chloride was added dropwise thereto at 5° C. or lower, and reacted for 1 hour with stirring. After the reaction, 50 ml of water and 100 ml of chloroform were added to the reaction solution. The chloroform layer obtained by separation was washed with 2N hydrochloric acid, dried and concentrated. The residue was recrystallized from ethyl acetate to yield 3.5 g of yellow 1,2-bis(4-diethylamino-2-methylphenyl)ethane-1,2-dione.

reactant | aluminum chloride | 8.3 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | carbon disulfide | 30 ml | C(=S)=S | CS2
reactant | N,N-diethyl-m-toluidine | 16.3 g | C(C)N(C1=CC(=CC=C1)C)CC | C11H17N
reactant | oxalyl chloride | 5 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | 50 ml | O | H2O
product | 1,2-bis(4-diethylamino-2-methylphenyl)ethane-1,2-dione | 3.5 g | C(C)N(C1=CC(=C(C=C1)C(C(=O)C1=C(C=C(C=C1)N(CC)CC)C)=O)C)CC | C24H32N2O2
